US04115095
Preparation of Ethyl 5p-Tolyl-1,2,4-Thiadiazole-3-Carboxylate
A solution of 7.48 g (0.0427 mol) of ethyl 2-oxo-1,3,4-oxathiazole-5-carboxylate and 50.0 g (0.427 mol) of p-tolunitrile (redistilled) was held at 190° C for 72 hours. The reaction mixture, which contained the product in 16% yield, was concentrated under vacuum to 90° C (0.5 torr) to give 4.4 g of black residue. Elution chromatography of this material on 200 g of silica gel (Woelm, for dry column chromatography) with benzene gave 1.7 g of product. Crystallization of this material from hexane (charcoal) gave 0.72 g (7%) of solid, mp 65°-66.5° C.

reactant | ethyl 2-oxo-1,3,4-oxathiazole-5-carboxylate | 0.0427 mol, 7.48 g | O=C1OC(=NS1)C(=O)OCC | C5H5NO4S
reactant | p-tolunitrile | 0.427 mol, 50.0 g | C1(=CC=C(C=C1)C#N)C | C8H7N
product | Ethyl 5p-Tolyl-1,2,4-Thiadiazole-3-Carboxylate | 4.4 g, 16% yield | C1(=CC=C(C=C1)C1=NC(=NS1)C(=O)OCC)C | C12H12N2O2S
